US09302996B2
A mixture in which tetrahydrofuran (6 mL) was added to 5-bromo-2-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine (542 mg), methyl 2,2-dimethyl-3-{[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyridin-2-yl]oxy}propanoate (372 mg), potassium phosphate (302 mg), palladium acetate (8 mg) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (29 mg) was stirred under nitrogen atmosphere at 50° C. for 6 hours. After cooling the mixture to room temperature, a saturated aqueous sodium bicarbonate solution, water and ethyl acetate were added to the mixture and the resulting mixture was stirred. The organic layer was separated, washed with a saturated brine, and the residue obtained by concentrating under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10 to 60:40) to obtain methyl 2,2-dimethyl-3-({4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)propanoate (100 mg).

reactant | 5-bromo-2-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine | 542 mg | BrC=1C=CC(=NC1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C15H19BrF3N3OSi
reactant | methyl 2,2-dimethyl-3-{[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyridin-2-yl]oxy}propanoate | 372 mg | CC(C(=O)OC)(COC1=NC=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C)C | C18H28BNO5
reactant | potassium phosphate | 302 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 29 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | palladium acetate | 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | methyl 2,2-dimethyl-3-({4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)propanoate | 100 mg | CC(C(=O)OC)(COC1=CC(=C(C=N1)C=1C=NC(=CC1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C)C | C27H35F3N4O4Si
